US07943788B2
2-(4-Methylphenyl)thiophene
2-Bromothiophene and 4-methylphenylboronic acid were treated in a manner similar to Reference Example 20-(1) to give the target compound.

reactant | 2-Bromothiophene | BrC=1SC=CC1 | C4H3BrS
reactant | 4-methylphenylboronic acid | CC1=CC=C(C=C1)B(O)O | C7H9BO2
product | 2-(4-Methylphenyl)thiophene | CC1=CC=C(C=C1)C=1SC=CC1 | C11H10S
